### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal):  An ideal of `ℤ` is generated by its norm

### PR DESCRIPTION
**Pull request by xroblot**
We also prove that 
- `x` and `|x|` are associated
- `x` and `|x|` span the same ideal

Note however that the proof of the second result does not use the first result since that would require commutativity but the result is also true in the noncommutative case. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean [hunk 1]
```diff
@@ -406,4 +406,16 @@ end Ideal
 
 end RingOfIntegers
 
+section Int
+
+open Ideal
+
+theorem Int.ideal_eq_span_absNorm_self (J : Ideal ℤ) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean:413]: Can it be `simp` if stated in the other direction?

File: Mathlib/RingTheory/Ideal/Span.lean [hunk 2]
```diff
@@ -235,6 +235,13 @@ theorem span_singleton_neg (x : α) : (span {-x} : Ideal α) = span {x} := by
   simp only [mem_span_singleton']
   exact ⟨fun ⟨y, h⟩ => ⟨-y, h ▸ neg_mul_comm y x⟩, fun ⟨y, h⟩ => ⟨-y, h ▸ neg_mul_neg y x⟩⟩
 
+@[simp]
+theorem span_singleton_abs [LinearOrder α] (x : α) :
+    span {|x|} = span {x} := by
+  obtain h | h := abs_choice x
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Span.lean:241]: Untested, but I think something like
```lean
obtain h | h := abs_choice x <;>
simpa [h]
```
works (maybe `simpa using h`).

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Ring/Associated.lean [hunk 3]
```diff
@@ -12,11 +12,18 @@ import Mathlib.Algebra.Ring.Units
...
 
 lemma neg_left (h : Associated a b) : Associated (-a) b := let ⟨u, hu⟩ := h; ⟨-u, by simp [hu]⟩
 lemma neg_right (h : Associated a b) : Associated a (-b) := h.symm.neg_left.symm
 lemma neg_neg (h : Associated a b) : Associated (-a) (-b) := h.neg_left.neg_right
 
 end Associated
+
+variable (a)
+
+lemma associated_neg_self_left : Associated (-a) a := Associated.rfl.neg_left
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Associated.lean:27]: I don't think we actually want this lemma; for instance, we do not have https://loogle.lean-lang.org/?q=Commute+%28-%3Fa%29+%3Fa

Comment (eric-wieser) [reply Mathlib/Algebra/Ring/Associated.lean:27]: If we did have it, it should be `Associated.neg_self_left` or similar to enable dot constructor notation; but I'd like to see some evidence of other lemmas of this shape first.

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean [hunk 4]
```diff
@@ -117,3 +117,13 @@ lemma dvd_mul_sub_mul_mul_gcd_of_dvd {p a b c d x y : R} [IsDomain R] [GCDMonoid
...
 
 end CommRing
+
+section misc
+
+theorem associated_abs [Ring R] [LinearOrder R] (x : R) :
+    Associated x |x| := by
+  obtain h | h := abs_choice x
+  · rw [h]
+  · exact h ▸ associated_neg_self_right _
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:127]: Can you add `Associated.abs_left (h : Associated a b) : Associated |a| b` and the right version? That matches how the rest of the API seems to be designed (and probably also avoids the need for `associated_neg_self_right`

File: Mathlib/RingTheory/Norm/Defs.lean [hunk 5]
```diff
@@ -59,6 +59,11 @@ noncomputable def norm : S →* R :=
 
 theorem norm_apply (x : S) : norm R x = LinearMap.det (lmul R S x) := rfl
 
+@[simp]
+theorem norm_self_apply (x : R) :
+    Algebra.norm R x = x := by
+  simp [norm_apply]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Norm/Defs.lean:65]: I think this should be stated sa
```suggestion
theorem norm_self (x : R) :
    Algebra.norm R = MonoidHom.id R := by
  ext
  simp [norm_apply]
```

File: Mathlib/RingTheory/Ideal/Span.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Span.lean]: I think it is true but it's probably harder to use and I cannot see any real use for it.

File: Mathlib/Algebra/Ring/Associated.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/Algebra/Ring/Associated.lean]: I removed the lemmas

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean [hunk 6]
```diff
@@ -117,3 +117,23 @@ lemma dvd_mul_sub_mul_mul_gcd_of_dvd {p a b c d x y : R} [IsDomain R] [GCDMonoid
...
+  · simpa [ha]
+  · simpa [ha] using h.neg_left
+
+theorem Associated.abs_right (h : Associated x y) :
+    Associated x |y| :=
+  (h.symm.abs_left).symm
+
+theorem associated_abs (x : R) :
+    Associated x |x| :=
+  Associated.rfl.abs_right
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:137]: I'd suggest dropping this lemma, given the new ones above.

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean [hunk 7]
```diff
@@ -132,8 +132,9 @@ theorem Associated.abs_right (h : Associated x y) :
     Associated x |y| :=
   (h.symm.abs_left).symm
 
-theorem associated_abs (x : R) :
-    Associated x |x| :=
-  Associated.rfl.abs_right
+theorem Associated.abs_left_iff :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:135]:
```suggestion
theorem associated_abs_left_iff :
```
to match `associated_normalize_iff`.

Can you also add the `right` version?

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean [hunk 8]
```diff
@@ -117,3 +117,30 @@ lemma dvd_mul_sub_mul_mul_gcd_of_dvd {p a b c d x y : R} [IsDomain R] [GCDMonoid
...
+
+theorem Associated.abs_left (h : Associated x y) :
+    Associated |x| y := by
+  obtain ha | ha := abs_choice x
+  · simpa [ha]
+  · simpa [ha] using h.neg_left
+
+theorem Associated.abs_right (h : Associated x y) :
+    Associated x |y| :=
+  (h.symm.abs_left).symm
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:133]: I guess you could save yourself a few lines here with
```
alias ⟨_, Associated.abs_left⟩ := associated_abs_left_iff
alias ⟨_, Associated.abs_right⟩ := associated_abs_right_iff
```
since you didn't use these to prove the `iff`.

File: Mathlib/Algebra/Ring/Associated.lean [hunk 9]
```diff
@@ -19,4 +19,8 @@ lemma neg_left (h : Associated a b) : Associated (-a) b := let ⟨u, hu⟩ := h;
 lemma neg_right (h : Associated a b) : Associated a (-b) := h.symm.neg_left.symm
 lemma neg_neg (h : Associated a b) : Associated (-a) (-b) := h.neg_left.neg_right
 
+@[simp]
+lemma neg_left_iff : Associated (-a) b ↔ Associated a b :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Associated.lean:23]: Please add `neg_right_iff` too!

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean (hunk 8 above)
Comment (xroblot) [reply Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:133]: Yes, that's a nice trick

File: Mathlib/Algebra/Ring/Associated.lean (hunk 9 above)
Comment (xroblot) [reply Mathlib/Algebra/Ring/Associated.lean:23]: Oh, sorry. I thought I did... It's done now.

**Comment by eric-wieser** [comment]
bors merge

Thanks!
